US09062056B2
2-[(3-Nitro-pyridin-2-ylamino)-methyl]-pentanoic acid ethyl ester
To a stirred solution of 2-amino-3-nitropyridine (390 mg, 2.80 mmol) in DMF (3 ml) was added ethyl 2-propylacrylate (500 mg, 3.52 mmol) followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (30 μl). The mixture was warmed to 80° C. and monitored by TLC (silica gel, 30% EtOAc/hexanes). After 48 hours, only starting material was detected by TLC. The reaction mixture was warmed to 100° C. for 4 days and cooled to room temperature. The reaction was poured into water and EtOAc. The layers were separated and the aqueous phase was extracted once more with EtOAc. The combined organics were dried (MgSO4), filtered and concentrated to give the crude product which was purified via silica gel flash column chromatography (Companion, 12 g silica gel, 15-50% EtOAc/hexanes). The product-containing fractions were combined and concentrated to give 90 mg (11%) of the desired compound which was used without further purification.

reactant | 2-amino-3-nitropyridine | 2.80 mmol, 390 mg | NC1=NC=CC=C1[N+](=O)[O-] | C5H5N3O2
reactant | ethyl 2-propylacrylate | 3.52 mmol, 500 mg | C(CC)C(C(=O)OCC)=C | C8H14O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 30 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[(3-Nitro-pyridin-2-ylamino)-methyl]-pentanoic acid ethyl ester | 90 mg, 11% | C(C)OC(C(CCC)CNC1=NC=CC=C1[N+](=O)[O-])=O | C13H19N3O4
